US09427442B2
Intermediate S-6A: 3-Fluoropropyltrifluoromethanesulfonate
To a cold (−25° C.), stirred solution of 2,6-lutidine (4.60 mL, 39.5 mmol) in DCM (30 mL) was added triflic anhydride (6.00 mL, 35.5 mmol) over 3 min. Then 3-fluorpropane-1-ol (Oakwood, cat. 010306-25G, 1.61 g, 20.6 mmol) was added. The reaction mixture was warmed to room temperature for 2.5 h. The reaction mixture was concentrated to half its volume and purified by flash chromatography (Teledyne ISCO CombiFlash, isocratic DCM, REDISEP® SiO2 120 g, detecting at 254 nM, and monitoring at 220 nM). Concentration of the appropriate fractions provided Intermediate S-6A (2.92 g, 67.4%). 1H NMR (400 MHz, chloroform-d) δ ppm 4.69 (2H, t, J=6.16 Hz), 4.65 (1H, t, J=5.50 Hz), 4.54 (1H, t, J=5.61 Hz), 2.25 (1H, dt, J=11.39, 5.86 Hz), 2.19 (1H, dt, J=11.44, 5.94 Hz).

reactant | 2,6-lutidine | 39.5 mmol, 4.60 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | triflic anhydride | 35.5 mmol, 6.00 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 3-fluorpropane-1-ol | 20.6 mmol, 1.61 g | FCCCO | C3H7FO
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-Fluoropropyltrifluoromethanesulfonate | FCCCOS(=O)(=O)C(F)(F)F | C4H6F4O3S
